* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__fill_2.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__fill_2 VDD VSS
R0 VDD.n15 VDD.n14 240.333
R1 VDD.n16 VDD.n15 239.316
R2 VDD.n16 VDD.n5 239.316
R3 VDD.n19 VDD.n5 239.316
R4 VDD.n20 VDD.n19 239.316
R5 VDD.n17 VDD.n8 9.8005
R6 VDD.n17 VDD.n0 2.75725
R7 VDD.n18 VDD.n6 9.8005
R8 VDD.n21 VDD.n3 9.8005
R9 VDD.n10 VDD.n9 9.8005
R10 VDD.n11 VDD.n9 9.8005
R11 VDD.n11 VDD.n2 9.8005
R12 VDD.n14 VDD.n7 7.09522
R13 VDD.n14 VDD.n13 7.09522
R14 VDD.n21 VDD.n2 6.6505
R15 VDD.n21 VDD.n20 6.3005
R16 VDD VDD.n21 6.3005
R17 VDD.n3 VDD 6.3005
R18 VDD VDD.n1 2.06282
R19 VDD.n15 VDD.n8 6.3005
R20 VDD.n17 VDD.n16 6.3005
R21 VDD VDD.n0 1.77287
R22 VDD.n6 VDD.n5 6.3005
R23 VDD.n0 VDD.n6 2.75725
R24 VDD.n19 VDD.n18 6.3005
R25 VDD.n18 VDD.n1 2.17736
R26 VDD.n19 VDD.n2 6.3005
R27 VDD.n2 VDD 6.3005
R28 VDD.n11 VDD.n5 6.3005
R29 VDD VDD.n11 6.3005
R30 VDD.n16 VDD.n9 6.3005
R31 VDD.n12 VDD.n9 6.3005
R32 VDD.n15 VDD.n10 6.3005
R33 VDD.n1 VDD.n4 4.93411
R34 VDD.n4 VDD.n3 2.75725
R35 VDD.n8 VDD.n7 2.73055
R36 VDD.n13 VDD.n10 2.73055
R37 VDD VDD.n7 2.03587
R38 VDD.n13 VDD.n12 2.03587
R39 VDD.n20 VDD.n4 1.77287
R40 VDD.n12 VDD 1.2485
R41 VSS.n9 VSS.n7 778.293
R42 VSS.n15 VSS.n3 777.779
R43 VSS.n12 VSS.n3 777.779
R44 VSS.n12 VSS.n7 777.779
R45 VSS.n16 VSS.n2 10.8894
R46 VSS.n11 VSS.n1 10.8894
R47 VSS.n11 VSS.n8 10.8894
R48 VSS.n13 VSS.n4 10.8894
R49 VSS.n13 VSS.n6 10.8894
R50 VSS.n16 VSS.n1 7.38939
R51 VSS.n14 VSS.n0 4.82111
R52 VSS.n10 VSS.n9 6.91818
R53 VSS.n9 VSS.n5 6.91818
R54 VSS.n2 VSS 5.2005
R55 VSS.n16 VSS.n15 5.2005
R56 VSS VSS.n16 5.2005
R57 VSS.n3 VSS.n1 5.2005
R58 VSS.n1 VSS 5.2005
R59 VSS.n12 VSS.n11 5.2005
R60 VSS.n11 VSS 5.2005
R61 VSS.n8 VSS.n7 5.2005
R62 VSS.n7 VSS.n6 5.2005
R63 VSS.n13 VSS.n12 5.2005
R64 VSS VSS.n13 5.2005
R65 VSS.n4 VSS.n3 5.2005
R66 VSS.n0 VSS.n4 2.1609
R67 VSS.n14 VSS.n2 2.66071
R68 VSS.n10 VSS.n8 2.63361
R69 VSS.n6 VSS.n5 2.63361
R70 VSS.n0 VSS 2.33079
R71 VSS VSS.n5 1.53032
R72 VSS VSS.n10 1.53032
R73 VSS.n15 VSS.n14 1.27115
C0 VDD VSS 1.41119f
.ends

