* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__tiel.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__tiel Y VDD VSS
X0 VDD.t3 a_93_147.t2 a_93_147.t3 VDD.t2 pfet_03v3 ad=2.7424p pd=12.83u as=0.3341p ps=1.805u w=1.285u l=0.28u
X1 a_93_147.t1 a_93_147.t0 VDD.t1 VDD.t0 pfet_03v3 ad=0.3341p pd=1.805u as=2.7424p ps=12.83u w=1.285u l=0.28u
X2 Y.t0 a_93_147.t4 VSS.t1 VSS.t0 nfet_03v3 ad=0.3087p pd=2.01u as=4.22095p ps=23.13u w=1.02u l=0.28u
R0 Y.n5 Y.t0 50.9005
R1 Y.n2 Y.n6 32.5888
R2 Y.n6 Y.n5 16.9387
R3 Y.n5 Y.n0 11.9058
R4 Y Y.n3 6.49945
R5 Y.n3 Y.n0 3.31861
R6 Y.n6 Y.n4 3.6505
R7 Y.n2 Y.n0 0.0474974
R8 Y.n1 Y.t0 0.459182
R9 Y.n1 Y.n4 0.825727
R10 Y.n3 Y.t0 5.88322
R11 Y.n3 Y.n4 1.7588
R12 Y.n2 Y.n1 1.57306
R13 VDD.n28 VDD.n14 137.088
R14 VDD.n24 VDD.n23 137.088
R15 VDD.n22 VDD.n0 137.088
R16 VDD.t0 VDD.n14 117.504
R17 VDD.t2 VDD.n22 97.9197
R18 VDD.n19 VDD.n15 74.5982
R19 VDD.n23 VDD.t2 39.1682
R20 VDD.n24 VDD.t0 19.5843
R21 VDD.n29 VDD.n13 9.8005
R22 VDD.n25 VDD.n11 2.75725
R23 VDD.n25 VDD.n17 9.8005
R24 VDD.n21 VDD.n17 9.8005
R25 VDD.n10 VDD.n20 4.85219
R26 VDD.n8 VDD.n18 5.40705
R27 VDD VDD.n19 6.51963
R28 VDD.n29 VDD.n28 6.3005
R29 VDD VDD.n29 6.3005
R30 VDD.n14 VDD.n13 6.3005
R31 VDD.n13 VDD.n11 2.75725
R32 VDD.n25 VDD.n24 6.3005
R33 VDD VDD.n11 1.77287
R34 VDD.n23 VDD.n17 6.3005
R35 VDD.n17 VDD 6.3005
R36 VDD.n22 VDD.n21 6.3005
R37 VDD.n21 VDD.n10 2.75725
R38 VDD VDD.n10 1.77287
R39 VDD.n12 VDD 6.3005
R40 VDD.n6 VDD.n7 1.85802
R41 VDD.n9 VDD.n7 2.22249
R42 VDD.n28 VDD.n15 6.3005
R43 VDD VDD.n8 1.82635
R44 VDD.n1 VDD.n0 2.13272
R45 VDD.n4 VDD.n1 2.03756
R46 VDD.n4 VDD.n2 2.101
R47 VDD VDD.n2 2.101
R48 VDD.n20 VDD.n2 4.19594
R49 VDD.n29 VDD.n12 6.19113
R50 VDD.n1 VDD.n8 4.68735
R51 VDD.n26 VDD.n16 5.35538
R52 VDD.n16 VDD.n7 4.48286
R53 VDD.n5 VDD 2.91159
R54 VDD VDD.n3 2.90963
R55 VDD.n26 VDD.n15 2.82549
R56 VDD.n19 VDD.n18 2.75725
R57 VDD.n28 VDD.n27 2.1923
R58 VDD.n20 VDD.n0 2.10378
R59 VDD.n9 VDD.n26 2.03587
R60 VDD.n27 VDD.n12 1.91839
R61 VDD.n27 VDD.n6 1.91839
R62 VDD.n28 VDD.n16 1.83883
R63 VDD.n18 VDD.n0 1.77287
R64 VDD.n9 VDD 1.71963
R65 VDD.n5 VDD.t1 1.41684
R66 VDD.n3 VDD.t3 1.41684
R67 VDD.n4 VDD.n3 1.26229
R68 VDD.n6 VDD.n5 1.22714
R69 VSS.n15 VSS.n12 452.993
R70 VSS.n23 VSS.n8 452.736
R71 VSS.n18 VSS.n12 452.736
R72 VSS.t0 VSS.n8 254.665
R73 VSS.n18 VSS.t0 198.072
R74 VSS.n17 VSS.n5 10.8894
R75 VSS.n17 VSS.n13 10.8894
R76 VSS.n1 VSS.n19 2.66071
R77 VSS.n19 VSS.n11 10.8894
R78 VSS.n22 VSS.n6 10.4384
R79 VSS.n25 VSS.n2 9.76841
R80 VSS.n16 VSS.n15 7.43544
R81 VSS.n15 VSS.n14 7.43544
R82 VSS.n5 VSS.n7 7.38939
R83 VSS.n21 VSS.n20 7.38939
R84 VSS.n22 VSS.n4 2.35671
R85 VSS VSS.n25 5.2005
R86 VSS.n7 VSS 5.2005
R87 VSS.n23 VSS.n22 5.2005
R88 VSS.n4 VSS 1.074
R89 VSS.n23 VSS.n2 5.2005
R90 VSS.n2 VSS 5.2005
R91 VSS VSS.n21 5.2005
R92 VSS VSS.n6 5.2005
R93 VSS.n12 VSS.n11 5.2005
R94 VSS.n19 VSS.n18 5.2005
R95 VSS.n1 VSS.n0 1.27115
R96 VSS.n20 VSS.n8 5.2005
R97 VSS.n20 VSS.n1 2.66071
R98 VSS.n5 VSS.n8 5.2005
R99 VSS VSS.n5 5.2005
R100 VSS.n18 VSS.n17 5.2005
R101 VSS.n17 VSS 5.2005
R102 VSS.n13 VSS.n12 5.2005
R103 VSS.n3 VSS.t1 4.4105
R104 VSS.n4 VSS.n3 1.42802
R105 VSS.n3 VSS.n10 2.7725
R106 VSS.n3 VSS.n2 2.71962
R107 VSS.n24 VSS.n7 2.66071
R108 VSS.n6 VSS.n9 2.66071
R109 VSS.n21 VSS.n9 2.66071
R110 VSS.n25 VSS.n24 2.66071
R111 VSS.n14 VSS.n11 2.63361
R112 VSS.n16 VSS.n13 2.63361
R113 VSS VSS.n16 1.53032
R114 VSS.n14 VSS.n0 1.53032
R115 VSS.n24 VSS.n23 1.27115
R116 VSS.n23 VSS.n9 1.27115
R117 VSS VSS.n0 1.00862
R118 a_93_147.n1 a_93_147.t2 29.4322
R119 a_93_147.n1 a_93_147.t0 25.3767
R120 a_93_147.n0 a_93_147.n1 4.0005
R121 a_93_147.t4 a_93_147.n0 7.81416
R122 a_93_147.n2 a_93_147.n0 2.96637
R123 a_93_147.n2 a_93_147.t1 1.41684
R124 a_93_147.t3 a_93_147.n2 1.41684
C0 VDD Y 0.1291f
C1 Y VSS 0.41078f
C2 VDD VSS 2.30573f
C3 a_93_147.n0 VSS 0.26602f
C4 VSS.t1 VSS 0.12276f
C5 VDD.n0 VSS 0.10416f
C6 VDD.n28 VSS 0.10416f
C7 Y.t0 VSS 0.13039f
.ends

